US07163947B2
A solution of N-(morpholin-4-yl)(3-nitroquinolin4-yl)amine (4.54 g, 16.6 mmol) in 150 mL of toluene was treated with 5% platinum on carbon (0.65 g, 0.17 mmol) and the mixture was shaken under an atmosphere of hydrogen (3.8×105 Pa). After 15 h, the reaction mixture was filtered through a pad of CELITE filter agent and rinsed with 4:1 toluene:MeOH. The filtrate was concentrated under reduced pressure to yield N4-(morpholin-4-yl)quinoline-3,4-diamine (4.06 g) as a red foam.

reactant | N-(morpholin-4-yl)(3-nitroquinolin4-yl)amine | 16.6 mmol, 4.54 g | N1(CCOCC1)NC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C13H14N4O3
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
catalyst | platinum on carbon | 0.17 mmol, 0.65 g | [Pt] | Pt
product | N4-(morpholin-4-yl)quinoline-3,4-diamine | 4.06 g | N1(CCOCC1)NC1=C(C=NC2=CC=CC=C12)N | C13H16N4O
